US05593997
5-Amino-3-(4'-methylphenyl)-1-phenyl-4-pyrazolecarboxamide
While maintaining an internal reaction temperature of 10°-15° C., 5-amino-4-cyano-3-(4'-methylphenyl)-1-phenylpyrazole (3.4 g, 12 mmol) was added in a portionwise manner to concentrated sulfuric acid (15 mL). After the addition was complete, the reaction mixture was heated at 50° C. for 4 hours. The reaction was cooled, poured over ice, neutralized with concentrated ammonium hydroxide and extracted with EtOAc. The organic layer was washed with water, dried (Na2SO4), filtered and concentrated in vacuo. The resulting solids were recrystallized from MeOH/H2O to afford 3.0 g of the title compound; m.p. 190°-191° C.

reactant | 5-amino-4-cyano-3-(4'-methylphenyl)-1-phenylpyrazole | 12 mmol, 3.4 g | NC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)C)C#N | C17H14N4
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-Amino-3-(4'-methylphenyl)-1-phenyl-4-pyrazolecarboxamide | 3.0 g | NC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)C)C(=O)N | C17H16N4O
